// Library name: Dataset
// Cell name: INVERTER
// View name: schematic
subckt INVERTER A Q VDD VSS
    M0 (Q A VDD VDD) pmos4
    M1 (Q A VSS VSS) nmos4
ends INVERTER
// End of subcircuit definition.
// Library name: Dataset
// Cell name: TRANSMISSION_GATE
// View name: schematic
subckt TRANSMISSION_GATE A B C VDD VSS
    M0 (A net8 B VDD) pmos4
    M1 (A C B VSS) nmos4
    I0 (C net8 VDD VSS) INVERTER
ends TRANSMISSION_GATE
// End of subcircuit definition.
// Library name: Dataset
// Cell name: 1012
// View name: schematic
M0 (net80 VB1 VDD VDD) pmos4
M2 (net77 VB1 VDD VDD) pmos4
M1 (net81 VB1 VDD VDD) pmos4
M4 (VOUT1 VB2 net81 VDD) pmos4
M3 (VOUT2 VB2 net80 VDD) pmos4
M11 (net77 net77 VSS VSS) nmos4
M6 (net51 net75 VSS VSS) nmos4
M5 (net54 net75 VSS VSS) nmos4
M14 (net80 VIN1 net50 VSS) nmos4
M13 (net81 VIN2 net50 VSS) nmos4
M15 (net50 VB3 VSS VSS) nmos4
M8 (VOUT2 VB4 net51 VSS) nmos4
M7 (VOUT1 VB4 net54 VSS) nmos4
M10 (net54 VB5 VSS VSS) nmos4
M9 (net51 VB5 VSS VSS) nmos4
I4 (net74 VCM1 VCLK5 VDD VSS) TRANSMISSION_GATE
I3 (VOUT2 net74 VCLK4 VDD VSS) TRANSMISSION_GATE
I2 (net75 net77 VCLK3 VDD VSS) TRANSMISSION_GATE
? Missing component
I0 (VOUT1 net76 VCLK1 VDD VSS) TRANSMISSION_GATE
C1 (net75 net74) capacitor
C0 (net76 net75) capacitor
