// Library name: Dataset
// Cell name: INVERTER
// View name: schematic
subckt INVERTER A Q VDD VSS
    M0 (Q A VDD VDD) pmos4
    M1 (Q A VSS VSS) nmos4
ends INVERTER
// End of subcircuit definition.
// Library name: Dataset
// Cell name: 1044
// View name: schematic
I0 (VCONT1 net7 VDD VSS) INVERTER
M3 (VCLK3 net7 VCLK2 VSS) nmos4
M2 (VCLK4 VCONT1 VCLK2 VSS) nmos4
? Missing component
M0 (VCLK4 net7 VCLK1 VSS) nmos4
