// Library name: Dataset
// Cell name: INVERTER
// View name: schematic
subckt INVERTER A Q VDD VSS
    M0 (Q A VDD VDD) pmos4
    M1 (Q A VSS VSS) nmos4
ends INVERTER
// End of subcircuit definition.
// Library name: Dataset
// Cell name: 1069
// View name: schematic
? Missing component
M7 (net13 VCLK3 net19 VDD) pmos4
M4 (net13 VCLK2 net19 VDD) pmos4
M1 (net13 VCLK1 net19 VDD) pmos4
M0 (net19 VCLK5 VDD VDD) pmos4
M8 (net13 VCLK4 net17 VSS) nmos4
M6 (net13 VCLK3 net17 VSS) nmos4
M5 (net13 VCLK2 net17 VSS) nmos4
M3 (net17 VCLK5 VSS VSS) nmos4
M2 (net13 VCLK1 net17 VSS) nmos4
I1 (net29 VOUT1 VDD VSS) INVERTER
I0 (net19 net29 VDD VSS) INVERTER
