R5 (net32 net39) resistor
R4 (net44 net32) resistor
R3 (net46 VSS) resistor
R2 (net45 VSS) resistor
R1 (VDD net37) resistor
R0 (VDD net15) resistor
Q24 (net39 net39 VSS 0) npn
Q23 (net26 net26 net44 0) npn
Q22 (net42 net42 net26 0) npn
Q21 (VDD VDD net42 0) npn
Q20 (net9 net32 net45 0) npn
Q19 (net14 net32 net46 0) npn
Q18 (net19 net39 VSS 0) npn
Q17 (net22 net9 net19 0) npn
Q16 (net17 net14 net19 0) npn
Q15 (net11 VIN2 net9 0) npn
? Missing component
Q13 (LOGICQ1 net26 net11 0) npn
Q12 (LOGICQ2 net26 net11 0) npn
Q11 (net21 VIN3 net22 0) npn
Q10 (net21 VIN3 net17 0) npn
Q9 (net37 LOGICQ2 net21 0) npn
Q8 (net15 LOGICQ1 net21 0) npn
Q5 (net15 VIN4 net17 0) npn
Q4 (net37 VIN4 net22 0) npn
Q1 (VDD net15 LOGICQ2 0) npn
Q0 (VDD net37 LOGICQ1 0) npn
