Q6 (IB1 IB1 VSS 0) npn
Q5 (net14 IB1 VSS 0) npn
? Missing component
Q3 (IOUT2 VLO1 net26 0) npn
Q2 (IOUT1 VLO2 net27 0) npn
Q1 (IOUT2 VLO2 net24 0) npn
Q0 (IOUT1 VLO1 net25 0) npn
R3 (net14 net26) resistor
R2 (net14 net27) resistor
R1 (net10 net24) resistor
R0 (net10 net25) resistor
C1 (net14 VRF2) capacitor
C0 (net10 VRF1) capacitor
