L3 (net11 net15) inductor
L2 (net14 net11) inductor
L1 (VLO1 net11) inductor
L0 (VRF1 net14) inductor
C7 (net28 net16) capacitor
C6 (net29 net17) capacitor
C5 (net15 VSS) capacitor
C4 (net11 VSS) capacitor
C3 (net11 VSS) capacitor
C2 (net14 VSS) capacitor
C1 (VLO1 net11) capacitor
C0 (VRF1 net14) capacitor
Q3 (VIF2 net28 net20 0) npn
Q2 (VIF1 net29 net20 0) npn
? Missing component
Q0 (net16 net14 VSS 0) npn
R4 (net20 VSS) resistor
R3 (VDD VIF2) resistor
R2 (VDD VIF1) resistor
R1 (VDD net17) resistor
R0 (VDD net16) resistor
