Q6 (VDD net20 net12 0) npn
Q5 (net23 net12 net24 0) npn
Q4 (net17 net12 net25 0) npn
Q3 (net19 net18 net17 0) npn
Q2 (net14 net16 net17 0) npn
? Missing component
Q0 (net15 VB1 net14 0) npn
L0 (net19 net14) inductor
C5 (net20 VSS) capacitor
C4 (net20 net12) capacitor
C3 (net14 net18) capacitor
C2 (net19 net16) capacitor
C1 (VCONT1 net19) capacitor
C0 (VCONT1 net14) capacitor
R4 (VDD net15) resistor
R3 (net24 VSS) resistor
R2 (net25 VSS) resistor
R1 (net18 VREF2) resistor
R0 (net16 VREF1) resistor
D0 (net20 net23) diode
M0 (net20 VB2 net15 VDD) pmos4
