? Missing component
Q12 (net58 net50 net27 0) pnp
Q11 (net46 net47 net21 0) pnp
Q7 (VOUT1 net36 VDD 0) pnp
Q6 (net36 net36 VDD 0) pnp
Q5 (net27 net27 VDD 0) pnp
Q4 (net50 net27 VDD 0) pnp
Q3 (net47 net21 VDD 0) pnp
Q2 (net21 net21 VDD 0) pnp
Q1 (net42 net14 VDD 0) pnp
Q0 (net5 net14 VDD 0) pnp
Q36 (VOUT1 net58 VSS 0) npn
Q35 (net58 net58 VSS 0) npn
Q34 (net36 net46 VSS 0) npn
Q33 (net46 net46 VSS 0) npn
Q32 (net31 net29 VSS 0) npn
Q31 (VDD net31 net29 0) npn
Q30 (net40 net18 net20 0) npn
Q29 (net18 net40 VSS 0) npn
Q28 (net61 net18 net20 0) npn
Q27 (net62 net18 net20 0) npn
Q26 (net63 net18 net20 0) npn
Q25 (net64 net18 net20 0) npn
Q24 (net50 net19 net61 0) npn
Q23 (net24 net19 net62 0) npn
Q22 (net22 net19 net63 0) npn
Q21 (net47 net19 net64 0) npn
Q20 (net38 net19 net40 0) npn
Q19 (net5 net19 net18 0) npn
Q18 (net47 net50 net22 0) npn
Q17 (net50 net47 net24 0) npn
Q16 (VDD net5 net19 0) npn
Q15 (net39 net5 net38 0) npn
Q14 (net42 net42 net38 0) npn
Q10 (net43 net43 net42 0) npn
Q9 (net44 net44 net43 0) npn
Q8 (net14 net14 net44 0) npn
C1 (net24 net22) capacitor
C0 (net14 VSS) capacitor
R2 (VSS net20) resistor
R1 (net20 net29) resistor
R0 (net38 net31) resistor
