Q15 (net28 net28 net40 0) npn
Q14 (net12 net12 net41 0) npn
Q13 (VDD VOUT3 VOUT4 0) npn
Q12 (VDD VOUT2 VOUT1 0) npn
? Missing component
Q10 (VDD net24 VOUT2 0) npn
Q9 (net17 net28 net44 0) npn
Q8 (net17 net28 net43 0) npn
Q7 (net17 net12 net45 0) npn
Q6 (net17 net12 net42 0) npn
Q5 (net24 VIN2 net17 0) npn
Q4 (net34 VIN1 net17 0) npn
Q3 (net24 VOUT3 net17 0) npn
Q2 (net34 VOUT2 net17 0) npn
Q1 (VB2 VB2 net34 0) npn
Q0 (VB2 VB2 net24 0) npn
L1 (VDD net24) inductor
L0 (VDD net34) inductor
R11 (VB1 net28) resistor
R10 (VDD net12) resistor
R9 (net40 VSS) resistor
R8 (net41 VSS) resistor
R7 (VOUT4 VSS) resistor
R6 (VOUT1 VSS) resistor
R5 (VOUT3 VSS) resistor
R4 (VOUT2 VSS) resistor
R3 (net44 VSS) resistor
R2 (net43 VSS) resistor
R1 (net42 VSS) resistor
R0 (net45 VSS) resistor
