L5 (net6 VSS) inductor
L4 (net3 VSS) inductor
L3 (net12 net5) inductor
L2 (net5 net11) inductor
L1 (VDD net13) inductor
L0 (VDD net14) inductor
Q1 (net13 net12 net6 0) npn
? Missing component
R1 (net4 VDD) resistor
R0 (VDD net5) resistor
C1 (net4 net6) capacitor
C0 (net4 net3) capacitor
