C1 (net20 net22) capacitor
C3 (VCONT1 net21) capacitor
C2 (VCONT1 net16) capacitor
C0 (net18 net17) capacitor
? Missing component
Q2 (VOUT1 VB2 net25 0) npn
Q1 (net26 net20 net22 0) npn
Q0 (net25 net18 net17 0) npn
L5 (net22 net21) inductor
L1 (VDD VOUT2) inductor
L3 (net20 VB1) inductor
L7 (net21 net19) inductor
L2 (VB1 net18) inductor
L6 (net19 net16) inductor
L0 (VDD VOUT1) inductor
L4 (net17 net16) inductor
R0 (net19 VSS) resistor
