M5 (net34 net34 net30 VSS) nmos4
M4 (VOUT1 net34 net53 VSS) nmos4
M7 (net53 net46 VSS VSS) nmos4
M6 (net30 net30 VSS VSS) nmos4
I11 (net39 net45 VCLK2 VDD VSS) TRANSMISSION_GATE
I10 (net32 net39 VCLK1 VDD VSS) TRANSMISSION_GATE
I9 (VIN1 net50 VCLK2 VDD VSS) TRANSMISSION_GATE
I8 (VIN2 net50 VCLK1 VDD VSS) TRANSMISSION_GATE
I7 (net40 net46 VCLK1 VDD VSS) TRANSMISSION_GATE
I3 (net30 net40 VCLK2 VDD VSS) TRANSMISSION_GATE
I1 (net42 net45 VCLK1 VDD VSS) TRANSMISSION_GATE
I0 (net32 net42 VCLK2 VDD VSS) TRANSMISSION_GATE
I2 (VIN2 net49 VCLK2 VDD VSS) TRANSMISSION_GATE
I6 (VIN1 net49 VCLK1 VDD VSS) TRANSMISSION_GATE
I5 (net37 net46 VCLK2 VDD VSS) TRANSMISSION_GATE
I4 (net30 net37 VCLK1 VDD VSS) TRANSMISSION_GATE
? Missing component
C2 (net42 net50) capacitor
C0 (net39 net49) capacitor
C1 (net49 net37) capacitor
M3 (VOUT1 net34 net54 VDD) pmos4
M2 (net34 net34 net32 VDD) pmos4
M1 (net54 net45 VDD VDD) pmos4
M0 (net32 net32 VDD VDD) pmos4
