R14 (net51 net50) resistor
R13 (net35 VB4) resistor
R12 (net49 net35) resistor
R11 (net12 VB1) resistor
R10 (net25 VB1) resistor
R9 (net30 VB1) resistor
R8 (net20 VB1) resistor
R7 (net13 VB2) resistor
R6 (net26 VB2) resistor
R5 (net31 VB2) resistor
R4 (net21 VB2) resistor
R3 (net27 VB3) resistor
R2 (net32 VB3) resistor
R1 (net22 VB3) resistor
R0 (net14 VB3) resistor
C14 (net50 VSS) capacitor
C13 (VOUT1 net36) capacitor
C12 (net49 VSS) capacitor
C11 (net30 VSS) capacitor
C10 (net25 VSS) capacitor
C9 (net20 VSS) capacitor
C8 (net12 VSS) capacitor
C7 (net31 VSS) capacitor
C6 (net26 VSS) capacitor
? Missing component
C4 (net13 VSS) capacitor
C3 (net32 VSS) capacitor
C2 (net27 VSS) capacitor
C1 (net22 VSS) capacitor
C0 (net14 VSS) capacitor
M15 (net52 net76 VSS VSS) nmos4
M14 (net54 net28 VSS VSS) nmos4
M13 (net56 net23 VSS VSS) nmos4
M12 (net58 net15 VSS VSS) nmos4
M11 (net60 net30 net53 VSS) nmos4
M10 (net62 net25 net55 VSS) nmos4
M9 (net64 net20 net57 VSS) nmos4
M8 (net66 net12 net59 VSS) nmos4
M7 (net68 net31 net61 VSS) nmos4
M6 (net70 net26 net63 VSS) nmos4
M5 (net72 net21 net65 VSS) nmos4
M4 (net74 net13 net67 VSS) nmos4
M3 (net34 net32 net69 VSS) nmos4
M2 (net29 net27 net71 VSS) nmos4
M1 (net24 net22 net73 VSS) nmos4
M0 (net16 net14 net75 VSS) nmos4
L22 (VDD net36) inductor
L21 (net34 net36) inductor
L20 (net29 net34) inductor
L19 (net24 net29) inductor
L18 (net16 net24) inductor
L17 (net51 net16) inductor
L16 (net76 net35) inductor
L15 (net28 net76) inductor
L14 (net23 net28) inductor
L13 (net15 net23) inductor
L12 (VIN1 net15) inductor
L11 (net53 net52) inductor
L10 (net55 net54) inductor
L9 (net57 net56) inductor
L8 (net59 net58) inductor
L7 (net61 net60) inductor
L6 (net63 net62) inductor
L5 (net65 net64) inductor
L4 (net67 net66) inductor
L3 (net69 net68) inductor
L2 (net71 net70) inductor
L1 (net73 net72) inductor
L0 (net75 net74) inductor
