L5 (VDD VOUT3) inductor
L4 (VOUT4 VDD) inductor
L1 (VOUT2 VDD) inductor
L0 (VDD VOUT1) inductor
C11 (net22 VSS) capacitor
C10 (VOUT4 net22) capacitor
C9 (net18 VSS) capacitor
C8 (VOUT3 net18) capacitor
C7 (VCONT2 VOUT4) capacitor
C6 (VCONT2 VOUT3) capacitor
? Missing component
C4 (VOUT2 net14) capacitor
C3 (net11 VSS) capacitor
C2 (VOUT1 net11) capacitor
C1 (VCONT1 VOUT2) capacitor
C0 (VCONT1 VOUT1) capacitor
M7 (net22 VOUT1 IB2 VSS) nmos4
M6 (net18 VOUT2 IB2 VSS) nmos4
M5 (VOUT4 VOUT3 net22 VSS) nmos4
M4 (VOUT3 VOUT4 net18 VSS) nmos4
M3 (net14 VOUT4 IB1 VSS) nmos4
M2 (net11 VOUT3 IB1 VSS) nmos4
M1 (VOUT2 VOUT1 net14 VSS) nmos4
M0 (VOUT1 VOUT2 net11 VSS) nmos4
