L6 (net22 IB1) inductor
L5 (VOUT3 VDD) inductor
L3 (VDD VOUT4) inductor
L2 (net13 IB1) inductor
L1 (VDD VOUT2) inductor
L0 (VOUT1 VDD) inductor
C6 (net22 VSS) capacitor
C4 (VDD VOUT4) capacitor
C3 (VDD VOUT3) capacitor
? Missing component
C1 (VDD VOUT2) capacitor
C0 (VDD VOUT1) capacitor
M3 (VOUT4 VOUT3 net22 VSS) nmos4
M2 (VOUT3 VOUT4 net22 VSS) nmos4
M1 (VOUT2 VOUT1 net13 VSS) nmos4
M0 (VOUT1 VOUT2 net13 VSS) nmos4
