M1 (VOUT2 VOUT1 VDD VDD) pmos4
M0 (VOUT1 VOUT2 VDD VDD) pmos4
L1 (net25 VOUT2) inductor
L0 (VOUT1 net25) inductor
? Missing component
C0 (VB1 VOUT1) capacitor
M5 (IB1 IB1 VSS VSS) nmos4
M4 (net15 IB1 VSS VSS) nmos4
M3 (VOUT2 VOUT1 net15 VSS) nmos4
M2 (VOUT1 VOUT2 net15 VSS) nmos4
