M6 (net49 VOUT3 net36 VSS) nmos4
M5 (net50 VOUT4 net36 VSS) nmos4
M3 (net48 VOUT2 net36 VSS) nmos4
M1 (net47 VOUT1 net36 VSS) nmos4
M8 (net36 VB1 VSS VSS) nmos4
M2 (VOUT4 VOUT3 net48 VSS) nmos4
M4 (VOUT1 VOUT2 net50 VSS) nmos4
M7 (VOUT2 VOUT1 net49 VSS) nmos4
M0 (VOUT3 VOUT4 net47 VSS) nmos4
L1 (VDD VOUT4) inductor
L0 (VOUT3 VDD) inductor
L2 (VOUT1 VDD) inductor
L3 (VDD VOUT2) inductor
C1 (VOUT4 VSS) capacitor
C0 (VOUT3 VSS) capacitor
? Missing component
C3 (VOUT2 VSS) capacitor
