M1 (net18 net5 VDD VDD) pmos4
M0 (net5 net18 VDD VDD) pmos4
L0 (net5 net18) inductor
C3 (IB1 VSS) capacitor
C2 (net18 net7) capacitor
C1 (net5 net13) capacitor
? Missing component
M3 (net18 net13 IB1 VSS) nmos4
M2 (net5 net7 IB1 VSS) nmos4
R1 (VB1 net13) resistor
R0 (net7 VB1) resistor
