L3 (net22 VSS) inductor
L2 (net11 net10) inductor
L1 (VDD net18) inductor
L0 (VDD net8) inductor
C3 (VDD net22) capacitor
C2 (net10 VSS) capacitor
C1 (net11 net10) capacitor
? Missing component
M3 (IB1 IB1 VSS VSS) nmos4
M2 (net10 IB1 VSS VSS) nmos4
M1 (net18 net8 net11 VSS) nmos4
M0 (net8 net18 net11 VSS) nmos4
