L8 (net12 VB2) inductor
L7 (net7 VB2) inductor
L6 (net24 net15) inductor
L5 (net26 net5) inductor
L4 (net15 VSS) inductor
L3 (net5 VSS) inductor
L2 (net13 VB3) inductor
L1 (VB3 net8) inductor
L0 (net9 net11) inductor
R0 (net9 net11) resistor
Q4 (net11 net13 net15 0) npn
Q3 (net9 net8 net5 0) npn
Q0 (net11 net11 net9 0) npn
Q1 (net9 net9 net11 0) npn
C7 (net12 net23) capacitor
C6 (net23 net24) capacitor
? Missing component
C4 (VB1 net7) capacitor
C3 (net7 net25) capacitor
C2 (net25 net26) capacitor
C1 (net11 net8) capacitor
C0 (net9 net13) capacitor
