M1 (net15 net14 VSS VSS) nmos4
L2 (net12 net15) inductor
L1 (net14 net16) inductor
L0 (net16 net15) inductor
? Missing component
C2 (net12 net15) capacitor
C1 (net14 net16) capacitor
C0 (net16 net15) capacitor
M0 (net16 net12 VDD VDD) pmos4
