M7 (net68 net69 VSS net88) nmos4
M3 (net76 net74 VSS net90) nmos4
M5 (net86 net91 VSS net95) nmos4
M4 (net70 net73 VSS net89) nmos4
M0 (net76 net68 VSS net98) nmos4
M2 (net82 net99 net77 net100) nmos4
M1 (net68 net76 VSS net92) nmos4
L3 (net91 net76) inductor
L5 (net101 net86) inductor
L4 (net101 net70) inductor
L2 (net73 net68) inductor
L1 (net101 net91) inductor
L0 (net101 net73) inductor
C22 (net76 net69) capacitor
C21 (net68 net74) capacitor
C11 (VDD VSS) capacitor
C9 (VDD net101) capacitor
C12 (net78 net91) capacitor
C16 (net101 VSS) capacitor
C15 (VOUT2 net86) capacitor
C14 (net101 VSS) capacitor
C13 (VOUT1 net70) capacitor
C10 (net78 net73) capacitor
C8 (net101 VSS) capacitor
C7 (net82 net91) capacitor
C6 (net82 net91) capacitor
C5 (net77 net73) capacitor
? Missing component
R13 (net71 VB4) resistor
R12 (net74 net71) resistor
R7 (net69 net71) resistor
R6 (net88 VSS) resistor
R4 (net90 VSS) resistor
R5 (net78 VB2) resistor
R11 (net95 VSS) resistor
R10 (net89 VSS) resistor
R9 (net98 VSS) resistor
R8 (net92 VSS) resistor
R3 (net82 VSS) resistor
R2 (net77 VSS) resistor
R1 (net99 VB1) resistor
R0 (VSS net100) resistor
M6 (net101 VB3 VDD VDD) pmos4
