M15 (VOUT1 VCLK7 net38 VSS) nmos4
M14 (net41 net39 VSS VSS) nmos4
M13 (net38 net40 VSS VSS) nmos4
M12 (VOUT1 VCLK8 net41 VSS) nmos4
M11 (VOUT1 VCLK6 net42 VSS) nmos4
M10 (net45 net43 VSS VSS) nmos4
M9 (net42 net44 VSS VSS) nmos4
M8 (VOUT1 VCLK5 net45 VSS) nmos4
M7 (VOUT1 VCLK3 net46 VSS) nmos4
M6 (net49 net47 VSS VSS) nmos4
M5 (net46 net48 VSS VSS) nmos4
M4 (VOUT1 VCLK4 net49 VSS) nmos4
M3 (net52 net50 VSS VSS) nmos4
M2 (net53 net51 VSS VSS) nmos4
M1 (VOUT1 VCLK2 net52 VSS) nmos4
M0 (VOUT1 VCLK1 net53 VSS) nmos4
I7 (VCLK8 net39 VDD VSS) INVERTER
I6 (VCLK7 net40 VDD VSS) INVERTER
I5 (VCLK5 net43 VDD VSS) INVERTER
I4 (VCLK6 net44 VDD VSS) INVERTER
? Missing component
I2 (VCLK3 net48 VDD VSS) INVERTER
I1 (VCLK2 net50 VDD VSS) INVERTER
I0 (VCLK1 net51 VDD VSS) INVERTER
M16 (VOUT1 VSS VDD VDD) pmos4
